US06235771B1
To a solution of methyl 7-(4-propylphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (450 mg) in 1, 2-dimethoxyethane (15 ml) was added 6N hydrochloric acid (7.5 ml), and the mixture was refluxed for 40 hours, cooled to room temperature and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give crystals, which were collected by filtration and recrystallized from THF/diisopropylether to give colorless crystals of 7-(4-propylphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (433.6 mg).

reactant | methyl 7-(4-propylphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 450 mg | C(CC)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C21H22O4S
reactant | hydrochloric acid | 6N, 7.5 ml | Cl | ClH
solvent | 1, 2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
product | 7-(4-propylphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 433.6 mg | C(CC)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C20H20O4S
